US09403807B2
Step B: N-(1-(3-(4-chlorophenyl)-6,6,6-triflurohex-4-yn-3-yl)-1H-indol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methanesulfonamide
A three-neck round-bottom flask was charged with CuI (38 mg, 0.2 mmol), Phen.H2O (40 mg, 0.2 mmol), KF (58 mg, 1.0 mmol) and stirring bar. The flask was dried at 130° C. in vacuo for 3 h. After cooling to RT, the flask was backfilled with air and TMSCF3 (142 mg, 1.0 mmol), DMF (2 mL) was added. Then the flask was heated to 130° C. for 30 min. A solution of N-(1-(3-(4-chlorophenyl)pent-1-yn-3-yl)-1H-indol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methanesulfonamide (102 mg, 0.2 mmol, enantiomer A) in DMF (1 mL) was slowly added to the mixture at 130° C. over 1 h. The resulting mixture was stirred for another 1 h at 130° C. The crude product was purified by Combiflash (mobile phase: CH3CN/water (0.08% of NH4HCO3)) to give the title compound. LC/MS m/z=606.7 [M+Na]

reactant | H2O | 0.2 mmol, 40 mg | O | H2O
reactant | KF | 1.0 mmol, 58 mg | [F-].[K+]
reactant | TMSCF3 | 1.0 mmol, 142 mg | [Si](C)(C)(C)C(F)(F)F | C4H9F3Si
reactant | N-(1-(3-(4-chlorophenyl)pent-1-yn-3-yl)-1H-indol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methanesulfonamide | ClC1=CC=C(C=C1)C(C#C)(CC)N1C=CC2=C(C=CC=C12)N(S(=O)(=O)C)COCC[Si](C)(C)C | C26H33ClN2O3SSi
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.2 mmol, 38 mg | [Cu]I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(1-(3-(4-chlorophenyl)-6,6,6-triflurohex-4-yn-3-yl)-1H-indol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methanesulfonamide | ClC1=CC=C(C=C1)C(CC)(C#CC(F)(F)F)N1C=CC2=C(C=CC=C12)N(S(=O)(=O)C)COCC[Si](C)(C)C | C27H32ClF3N2O3SSi
